US07851465B2
(Z)-7-Chloro-1-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one.
In a 1 L 3 neck RBF equipped with magnetic stir bar, condenser, thermocouple, and N2 inlet, crude (E)-5,7-dichloro-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (54 g) was dissolved into 360 mL of DME. To this was added a solution of Na2CO3 (23 g, 0.15 mol, in 250 mL of H2O) followed by the addition of 4-methoxyphenyl boronic acid (22.7 g, 0.15 mol) and Pd(PPh3)4 (1.4 g, 1.2 mmol). The reaction mixture was heated in a 85° C. oil bath for 2 h and then cooled (RT). To this was added 200 mL of EtOAc and the mixture stirred for 5 min. Organic layer was separated and washed with 200 mL H2O and then brine. Organic layer was concentrated to dryness to give 68 g of crude product. This was subjected to column chromatography using 550 g of silica gel and 25/75 to 60/40 EtOAc/heptane. Fractions containing pure product were combined to give 21 g of pure product and other fractions containing a small amount of impurity (by TLC) gave another 20 g of product, albeit less pure. However NMR of both lots was identical. Total of 41 g of product was obtained. Yield 72% over two steps. 1H NMR (300 MHz, CDCl3) δ 3.7 (s, 3H), 3.80 (d, 1H), 3.85 (s, 3H), 4.57 (d, 1H), 4.85 (d, 1H), 5.57 (d, 1H), 6.63 (d, 2H), 6.85-6.95 (m, 4H), 7.16 (d, 1H), 7.3-7.44 (m, 4H).

reactant | (E)-5,7-dichloro-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 54 g | Cl/C=1/C2=C(N(C(C\N1)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C17H14Cl2N2O2
reactant | DME | 360 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.15 mol, 250 mL, 23 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxyphenyl boronic acid | 0.15 mol, 22.7 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
catalyst | Pd(PPh3)4 | 1.2 mmol, 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (Z)-7-Chloro-1-(4-methoxybenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 21 g | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OC)=O)CC2=CC=C(C=C2)OC)C=C1 | C24H21ClN2O3
